US08975267B2
Dimethyl(2E)-hept-2-enedioate
A solution of methyl 5-oxopentanoate (1.9 g, 14.6 mmol) and (carboethoxymethylene) triphenylphosphorane (5.0 g, 14.9 mmol) in toluene (50 mL) was refluxed for 8 hours. Solvent was removed under vacuo and the crude was purified by flash chromatography on silica gel (eluant: AcOEt/hexane 2/8) to give 1.32 g (48% yield) as colorless oil of the title compound.

reactant | methyl 5-oxopentanoate | 14.6 mmol, 1.9 g | O=CCCCC(=O)OC | C6H10O3
reactant | (carboethoxymethylene) triphenylphosphorane | 14.9 mmol, 5.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Dimethyl(2E)-hept-2-enedioate | 48% yield | C(\C=C\CCCC(=O)OC)(=O)OC | C9H14O4
